* fcota (folded cascode operational trans-conductance)
* 
* 25 - Feb - 2021
*
* Circuit description
*
* input stage
*T D G S B
M1 6 2 13 13  CMOSN L={l1} W={w1}
M2 7 1 13 13  CMOSN L={l2} W={w2}
M3 13 14 5 5 CMOSN L={l3} W={w3}
*
* Current source
M15 14 14 5 5 CMOSN L={l15} W={w15}
Ibias 4 14 dc {Iref}
*
* Second column
M14 8 9 4 4 CMOSP L={l14} W={w14}
M13 9 10 8 8 CMOSP L={l13} W={w13}
R1 9 10 {Re1}
M12 10 14 5 5 CMOSN L={l12} W={w12}
*
* Third column
M4 6 9 4 4 CMOSP L={l4} W={w4}
M6 11 10 6 6 CMOSP L={l6} W={w6}
R2 11 12 {Re2}
M8 12 11 15 15 CMOSN L={l8} W={w8}
M10 15 12 5 5 CMOSN L={l10} W={w10}
*
* Fourth column
M5 7 9 4 4 CMOSP L={l5} W={w5}
M7 3 10 7 7 CMOSP L={l7} W={w7}
M9 3 11 16 16 CMOSN L={l9} W={w9}
M11 16 12 5 5 CMOSN L={l11} W={w11}
*
* Load capacitance
CL 3 0 {CL}
